US04026899
To a solution of 2-(2-(diethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole (0.17 g.) in acetone (4 ml.) was added 0.2 ml. of 30% aqueous hydrogen peroxide. The solution was left at room temperature overnight and then evaporated to dryness under reduced pressure. The residue was crystallized from acetone-ether to give 2-(2-(diethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole N-oxide monohydrate, m.p. 123°-124° (decomp.). This compound, when crystallized in the presence of hydrochloric acid, gave a water-soluble monohydrochloride salt which darkened and decomposed at temperatures above 150°.

reactant | 2-(2-(diethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole | 0.17 g | C(C)N(CCN1N=C2C=3C(=C(C=CC13)C)SC1=C2C=CC=C1)CC | C20H23N3S
reactant | hydrogen peroxide | OO | H2O2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 2-(2-(diethylamino)ethyl)-5-methyl-2H(1)benzothiopyrano[4,3,2-cd]indazole N-oxide monohydrate | O.C(C)N(CCN1[N+](=C2C=3C(=C(C=CC13)C)SC1=C2C=CC=C1)[O-])CC | InChI=1S/C20H23N3OS.H2O/c1-4-21(5-2)12-13-22-16-11-10-14(3)20-18(16)19(23(22)24)15-8-6-7-9-17(15)25-20;/h6-11H,4-5,12-13H2,1-3H3;1H2
